US07763639B2
2-[1-(2,2,2-TRIFLUOROETHYL)PIPERIDIN-4-YL]-6-(TRIFLUOROMETHYL)PHENOL
Preparation according to Example 1: 2-piperidin-4-yl-6-(trifluoromethyl)phenol (0.01 g, 0.04 mmol), acetonitrile (2 ml), potassium carbonate (0.01 g) and 1,1,1-trifluoro-3-iodopropane (0.01 ml). MS m/z (relative intensity, 70 eV) 341 (M+, 40), 258 (bp), 195 (25), 167 (28), 152 (56).

reactant | 2-piperidin-4-yl-6-(trifluoromethyl)phenol | 0.04 mmol, 0.01 g | N1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)O | C12H14F3NO
reactant | potassium carbonate | 0.01 g | C([O-])([O-])=O.[K+].[K+]
reactant | 1,1,1-trifluoro-3-iodopropane | 0.01 ml | FC(CCI)(F)F | C3H4F3I
solvent | acetonitrile | 2 ml | C(C)#N | C2H3N
product | 2-[1-(2,2,2-TRIFLUOROETHYL)PIPERIDIN-4-YL]-6-(TRIFLUOROMETHYL)PHENOL | FC(CN1CCC(CC1)C1=C(C(=CC=C1)C(F)(F)F)O)(F)F | C14H15F6NO
